US07973040B2
Step 5: 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valine
A solution (0.1 M) of methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valinate in 2:1 mixture of MeOH/H2O was treated with LiOH.H2O (4 eq) and then heated at 60° C. for 4 h. The mixture was cooled and concentrated to half volume, then diluted with EtOAc and acidified with aqueous HCl (1 N). The organic layer was separated and washed with brine then dried. Removal of the volatiles afforded the title compound (98%) as an oil. MS (ES+) m/z 284 (M+H)+

reactant | methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valinate | 0.1 M | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)OC)(C)C | C16H27NO4
reactant | LiOH.H2O | 4 eq | O[Li].O
solvent | MeOH H2O | CO.O
product | 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valine | 98% | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)O)(C)C | C15H25NO4
